US08937092B2
A solution of 2-(3-fluoro-4-nitrophenyl)propanoic acid in methanol was added thionyl chloride (2.5 equiv.) at 0° C. and removed ice-bath. Reaction mixture was stirred at room temperature. After 2 h, dry over magnesium sulfate and evaporate solvent and purified by column chromatography (ethylacetate-hexane) to obtain methyl 2-(3-fluoro-4-nitrophenyl)propanoate.

reactant | 2-(3-fluoro-4-nitrophenyl)propanoic acid | FC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)O)C | C9H8FNO4
reactant | thionyl chloride | 2.5 equiv. | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
product | methyl 2-(3-fluoro-4-nitrophenyl)propanoate | FC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OC)C | C10H10FNO4
